US08114887B2
To a 10 mL MeOH suspension of 4.05 g (20.3 mmol) N-boc piperidinone and 2.11 g (19.3 mmol) cyclohexyl isocyanide was added a solution of 2.06 g (25.4 mmol) potassium isocyanate in 2.8 mL H2O in one portion with stirring followed by 3.0 g (20.3 mmol) 3-fluoroaniline hydrochloride in portions over 5 m. After stirring for 2 h the reaction was treated with 250 ml CH2Cl2. The organic layer was washed with water (2×50 ml), brine (1×50 ml), dried over Na2SO4, filtered and concentrated to dryness in vacuo to give a crude oil (9.68 g). Purification by automated flash chromatography (0-5.5% MeOH in CH2Cl2 over 28 m) afforded tert-butyl 4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3,8-triazaspiro[4.5]dec-3-ene-8-carboxylate as a white solid. 1H NMR (CDCl3, 400 MHz): δ 7.41 (m, 1H), 7.11 (m, 1H), 7.05 (d, J=7.88 Hz, 1H), 6.99 (m, 1H), 5.40 (br s, 1H), 4.02 (m, 1H), 3.58 (m, 2H), 3.27 (m, 2H), 2.05 (m, 4H), 1.92 (m, 2H), 1.71 (m, 4H), 1.44 (m, 12H), 1.24 (m, 2H). Electrospray mass spectrum: M+H=445.2

reactant | N-boc piperidinone | 20.3 mmol, 4.05 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | cyclohexyl isocyanide | 19.3 mmol, 2.11 g | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | potassium isocyanate | 25.4 mmol, 2.06 g | [N-]=C=O.[K+]
reactant | 3-fluoroaniline hydrochloride | 20.3 mmol, 3.0 g | Cl.FC=1C=C(N)C=CC1
solvent | H2O | 2.8 mL | O | H2O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | tert-butyl 4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3,8-triazaspiro[4.5]dec-3-ene-8-carboxylate | C1(CCCCC1)NC1=NC(N(C12CCN(CC2)C(=O)OC(C)(C)C)C2=CC(=CC=C2)F)=O | C24H33FN4O3
